US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(4-methoxybenzo[d][1,3]dioxol-6-yl)imidazolidin-2-one
The compound was synthesized as trifluoroacetate salt starting from 5-aminobenzimidazole (0.585 g, 4.4 mmol), 7-methoxybenzo[d][1,3]dioxole-5-carbaldehyde (0.721 g, 4 mmol), TMSCN (0.5 mL, 4 mmol), PdC (10%, 0.02 g), TEA (0.521 mL, 3.74 mmol), di-(imidazol-1-yl)methanone (0.331 g, 2.04 mmol) as described in method 2. The product was purified by means of preparative HPLC.

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | 5-aminobenzimidazole | 4.4 mmol, 0.585 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | 7-methoxybenzo[d][1,3]dioxole-5-carbaldehyde | 4 mmol, 0.721 g | COC1=CC(=CC2=C1OCO2)C=O | C9H8O4
reactant | TMSCN | 4 mmol, 0.5 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di-(imidazol-1-yl)methanone | 2.04 mmol, 0.331 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(4-methoxybenzo[d][1,3]dioxol-6-yl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C=2C=C(C1=C(OCO1)C2)OC)=O | C18H16N4O4
